US07579351B2
5-(tert-Butyl-dimethyl-silanyloxy)-1H-indole-2-carboxylic acid ethyl ester
To the solution of 10.0 g (49.0 mmol) 5-hydroxyindole-2-carboxylic acid (commercially available) in 30 ml N,N-dimethylformamide, 7.7 g (51.1 mmol) tert-butyldimethylchlorosilane and 3.5 g (51.4 mmoL) imidazole was added. After 1 hour, the solution was poured on 10% aqueous ammonium chloride solution and was extracted three times with ethyl acetate. The combined organic layers were washed with brine, dried over magnesium sulfate, filtered and evaporated. The residue was purified by column chromatography over silica gel with ethyl acetate:n-hexane (1:2 v/v) as eluant to give 15.3 g (98.5%) of the compound as a white solid.

reactant | 5-hydroxyindole-2-carboxylic acid | 49.0 mmol, 10.0 g | OC=1C=C2C=C(NC2=CC1)C(=O)O | C9H7NO3
reactant | tert-butyldimethylchlorosilane | 51.1 mmol, 7.7 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | imidazole | 3.5 g | N1C=NC=C1 | C3H4N2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 5-(tert-Butyl-dimethyl-silanyloxy)-1H-indole-2-carboxylic acid ethyl ester | 15.3 g, 98.5% | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)O[Si](C)(C)C(C)(C)C | C17H25NO3Si
